US05643931
1,3-Bis[4-(N-hydroxyaminomethyl)phenoxy]benzene (0.704 g) was dissolved in 21 ml of tetrahydrofuran to which, with ice-cooling and in an atmosphere of argon, was subsequently added dropwise 0.354 ml of chlorocarbonyl isocyanate. After 10 minutes of stirring at the same temperature, the stirring was continued for 2 hours at room temperature. The solvent was evaporated under a reduced pressure, and the resulting residue was subjected to silica gel column chromatography to obtain 0.44 g of 1,3-bis[4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy]benzene from fractions of chloroform-methanol (30:1) elution.

reactant | 1,3-Bis[4-(N-hydroxyaminomethyl)phenoxy]benzene | 0.704 g | ONCC1=CC=C(OC2=CC(=CC=C2)OC2=CC=C(C=C2)CNO)C=C1 | C20H20N2O4
reactant | chlorocarbonyl isocyanate | 0.354 ml | ClC(=O)N=C=O | C2ClNO2
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
product | 1,3-bis[4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy]benzene | 0.44 g | O=C1N(OC(N1)=O)CC1=CC=C(OC2=CC(=CC=C2)OC2=CC=C(C=C2)CN2OC(NC2=O)=O)C=C1 | C24H18N4O8
